US07855215B2
Step 6.1: 7-Methoxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
A solution of 2.0 g (11.3 mMol) of 7-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine [Monatsheft Chemie, 97 (1966),150] and 2.28 g (97%; 11.8 mMol) of 3-trifluoromethyl-phenyl-isocyanate in 20 ml ether is stirred for 30 min in a icebath. After addition of hexane, the mixture is concentrated partially in vacuo and the crystallized product filtered off: m.p.: 108° C.; MS: [M+1]+=365; Anal.: C,H,N,F.

reactant | 7-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 11.3 mMol, 2.0 g | COC1=CC2=C(NCCCC2)C=C1 | C11H15NO
reactant | 3-trifluoromethyl-phenyl-isocyanate | 11.8 mMol, 2.28 g | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | hexane | CCCCCC | C6H14
solvent | ether | 20 ml | CCOCC | C4H10O
product | 7-Methoxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C2=C(CCCC1)C=C(C=C2)OC)(F)F | C19H19F3N2O2
